US04695575
A mixture of 5.55 parts of N-(dihydro-3,3-diphenyl-2(3H)-furanylidene)-N-methylmethanaminium bromide, 4.85 parts of 1-[(4-fluorophenyl)methyl]-2-(4-piperidinylmethyl)-1H-benzimidazole, 2 parts of sodium carbonate and 90 parts of N,N-dimethylformamide was stirred overnight at 70° C. The reaction mixture was poured into water. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.8 parts (20%) of 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-N,N-dimethyl-α,α-diphenyl-1-piperidinebutanamide; mp. 151.4° C. (150).

reactant | N-(dihydro-3,3-diphenyl-2(3H)-furanylidene)-N-methylmethanaminium bromide | [Br-].C1(=CC=CC=C1)C1(C(OCC1)=[N+](C)C)C1=CC=CC=C1
reactant | 1-[(4-fluorophenyl)methyl]-2-(4-piperidinylmethyl)-1H-benzimidazole | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCNCC2 | C20H22FN3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-N,N-dimethyl-α,α-diphenyl-1-piperidinebutanamide | 20% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCC(C(=O)N(C)C)(C2=CC=CC=C2)C2=CC=CC=C2 | C38H41FN4O
